US07777047B2
5-(3-methoxypropoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxylic acid
A mixture of ethyl 5-(3-methoxypropoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxylate (3.50 g), 1N aqueous sodium hydroxide solution (10 mL), ethanol (10 mL) and tetrahydrofuran (10 mL) was stirred at 50° C. for 1 hr. 1N Hydrochloric acid (10 mL) and water were added to the reaction mixture, and the mixture was extracted with a mixed solvent of tetrahydrofuran-ethyl acetate. The organic layer was washed with saturated brine, dried (MgSO4), and concentrated. The obtained crystals were washed with hexane to give the title compound (3.26 g, 100%) as colorless crystals.

reactant | ethyl 5-(3-methoxypropoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxylate | 3.50 g | COCCCOC=1C=C2C=C(NC2=C(C1)N(S(=O)(=O)C1=NC=CC=C1)C)C(=O)OCC | C21H25N3O6S
reactant | sodium hydroxide | 1N, 10 mL | [OH-].[Na+]
reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | Hydrochloric acid | 1N, 10 mL | Cl | ClH
solvent | water | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 5-(3-methoxypropoxy)-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxylic acid | 3.26 g, 100% | COCCCOC=1C=C2C=C(NC2=C(C1)N(S(=O)(=O)C1=NC=CC=C1)C)C(=O)O | C19H21N3O6S
